US06159990
To a well stirred solution of 1-(3,4-difluorophenyl)-2-hydroxy-propan-1-one (5.5 g, 29.6 mmol) in MeOH (200 mL) was added hydroxylamine hydrochloride (2.6 g, 38.4 mmol) and sodium acetate (8.1 g, 59.2 mmol) and the the turbid solution was stirred overnight at room temperature. The solvent was evaporated and the residue was extracted with CH2Cl2. The organic layer was washed with sat. NaHCO3, separated, dried over Na2SO4 and then filtered. The solvent was removed in vacuo to obtain 1-(3,4-difluorophenyl)-2-hydroxy-propan-1-one-oxime as an orangish yellow oil (5.8 g, 97%). It was used in the next step without purification.

reactant | 1-(3,4-difluorophenyl)-2-hydroxy-propan-1-one | 29.6 mmol, 5.5 g | FC=1C=C(C=CC1F)C(C(C)O)=O | C9H8F2O2
reactant | hydroxylamine hydrochloride | 38.4 mmol, 2.6 g | Cl.NO
reactant | sodium acetate | 59.2 mmol, 8.1 g | C(C)(=O)[O-].[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | 1-(3,4-difluorophenyl)-2-hydroxy-propan-1-one-oxime | 5.8 g, 97% | FC=1C=C(C=CC1F)C(C(C)O)=NO | C9H9F2NO2
